US04788196
(iii) N-{4-[4-(4-Pyridyl)piperazin-1-yl]phenyl}methanesulphonamide
Methanesulphonyl chloride (0.50 g) was added dropwise to a stirred solution of 1-(4-aminophenyl)-4-(4-pyridyl)piperazine (1.00 g) in dry pyridine (10 ml) at room temperature. The mixture was stirred at room temperature for 20 hours and then evaporated. The residue was dissolved in water and the solution was basified with sodium bicarbonate solution and allowed to stand for 2 hours. The solid was filtered off, washed with water, dried and crystallised from methanol/ethyl acetate to give the title compound (0.55 g), m.p. 230°-232° C. Found: C,57.80; H,6.07; N,16.89. C16H20N4O2S requires: C,57.81; H,6.06; N,16.85%.

reactant | Methanesulphonyl chloride | 0.50 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-aminophenyl)-4-(4-pyridyl)piperazine | 1.00 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H18N4
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[4-(4-Pyridyl)piperazin-1-yl]phenyl}methanesulphonamide | 0.55 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NS(=O)(=O)C | C16H20N4O2S
